US08022062B2
Use a method similar to the General Procedure 4-1 to react 7-chloro-6-(3-chloro-4-hydroxy-benzylamino)-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (438 mg, 1.01 mmol) and 1-bromopinacolone (217 mg, 1.21 mmol). Purify by chromatography on silica gel eluting with EtOAc/hexane (1:4) to give 7-chloro-6-[3-chloro-4-(3,3-dimethyl-2-oxo-butoxy)-benzylamino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine as a colorless oil (441 mg, 82%). MS (ES+) m/z: 531 (M+H)+.

reactant | 7-chloro-6-(3-chloro-4-hydroxy-benzylamino)-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 1.01 mmol, 438 mg | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)NCC1=CC(=C(C=C1)O)Cl | C19H17Cl2F3N2O2
reactant | 1-bromopinacolone | 1.21 mmol, 217 mg | BrCC(C(C)(C)C)=O | C6H11BrO
product | 7-chloro-6-[3-chloro-4-(3,3-dimethyl-2-oxo-butoxy)-benzylamino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 441 mg, 82% | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)NCC1=CC(=C(C=C1)OCC(C(C)(C)C)=O)Cl | C25H27Cl2F3N2O3
